US07368578B2
To a mixture of 4-benzyloxy-3-hydroxybenzaldehyde (27.30 g) and N,N-dimethylformamide (300 mL) was added sodium hydride (60% in oil, 5.28 g) at 0° C., and the mixture was stirred at room temperature for 1 hr. Chloromethylmethyl ether (16.10 g) was added to the reaction mixture and the mixture was further stirred at room temperature for 15 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 4-benzyloxy-3-methoxymethoxybenzaldehyde as a colorless oil (32.60 g, yield 100%) from a fraction eluted with ethyl acetate-hexane (1:3, v/v).

reactant | 4-benzyloxy-3-hydroxybenzaldehyde | 27.30 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)O | C14H12O3
reactant | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 5.28 g | [H-].[Na+]
reactant | Chloromethylmethyl ether | 16.10 g | ClCOC | C2H5ClO
solvent | water | O | H2O
product | 4-benzyloxy-3-methoxymethoxybenzaldehyde | 32.60 g, yield 100% | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OCOC | C16H16O4
